US09382243B2
6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine
To a stirred solution of 6-chloro-5-iodo-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (4.29 g, 9.31 mmol) under nitrogen in anhydrous THF (30 mL) was added silver carbonate (3.08 g, 11.18 mmol), Pd(PPh3)4 (538 mg, 0.466 mmol), and 1,4-benzenediboronic acid bis(pinacol) ester (9.22 g, 27.9 mmol). The mixture was cooled to −78° C., a hard vacuum was pulled, and nitrogen was introduced (3×). The mixture was allowed to warm to room temperature, then heated to reflux. After 21 hours, the mixture was cooled to room temperature and diluted with EtOAc (80 mL). The mixture was filtered through celite with EtOAc rinse until filtrate was colorless. The filtrate was concentrated under reduced pressure. The resultant residue was chromatographed using a Biotage™ 150 g (100 g+50 g in series) silica gel cartridge eluted with 0-30% EtOAc in 1:1 Hexane/DCM over 15 column volumes. The product fractions were combined and concentrated under reduced pressure, then the resultant oil was dissolved in MeCN and water, frozen at −78° C., and lyophilized to dryness to provide the title compound as a yellow solid. LC-MS: calculated for C37H47BClN3O7Si 719.30, observed m/e: 720.43 (M+H)+ (Rt 3.25/4 min).

reactant | 6-chloro-5-iodo-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 9.31 mmol, 4.29 g | ClC=1C=C2C(=NC1I)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C25H31ClIN3O5Si
reactant | 1,4-benzenediboronic acid bis(pinacol) ester | 27.9 mmol, 9.22 g | B1(OC(C(O1)(C)C)(C)C)C2=CC=C(C=C2)B3OC(C(O3)(C)C)(C)C | C18H28B2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
catalyst | silver carbonate | 11.18 mmol, 3.08 g | C([O-])([O-])=O.[Ag+2]
catalyst | Pd(PPh3)4 | 0.466 mmol, 538 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C37H47BClN3O7Si
